Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Sulfasalazine / Lisinopril / Codeine
 
Attending: ___.
 
Chief Complaint:
Diarrhea, Cough, Decreased Appetite, Weakness
 
Major Surgical or Invasive Procedure:
___: Flexible bronchoscopy

 
History of Present Illness:
___ pmh HTN, HLD, DMII, and h/o tongue cancer who p/w 1 day of 
diarrhea, weakness, and a non productive cough. Pt reports that 
she developed diarrhea yesterday, non bloody or non melena, and 
had about 10 BMs, did not allow her to sleep. She denies n/v, 
f/c, lightheadedness/dizzines. She also reports dysuria (which 
appears chronic per documentation), denies back pain. She 
completed a 14d course of Nitrofurantoin per PCP (cx appears to 
have been resistant). She also reports weakness for 3 days 
associated with poor PO intake. BS this AM was in the 200s. She 
also reports a cough which has gone from non productive to 
productive recently, present for a week. No SOB, no CP. No HA, 
no neck pain. 

In the ED, initial vitals: 99.8 97 176/86 32 88% RA  
Labs were significant for +UA, hemolyzed chem 7 with 
hyponatremia, normal K and a cr of 1.3 (slightly above baseline 
of 1.2-1.3. No CBC sent.
Imaging w/ normal CXR.
Given Ceftriaxone x1.
Blood and urine cxs sent. Negative flu.
Vitals prior to transfer: 97.8 93 155/65 16 96% NC 

Currently, feels tired, coughing but has not had a BM today. 
Endorses dysuria as well.

 
Past Medical History:
DM2
HTN
Hyperlipidemia
Depression
Anxiety
Iron deficiency anemia
GERD
Chronic back pain
Insomnia
Tongue cancer, sees specialist at ___
H/o stomach ulcers
 
Social History:
___
Family History:
She had brother with lung CA, daughter with endometrial cancer

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================== 
VS: 99.5 162/53 95 22 95%4L
GEN: Sleepy, laying in bed, calm
HEENT: MMM, anicteric sclerae, no conjunctival pallor 
NECK: Supple without LAD or JVD
PULM: Bibasilar crackles that seem atelactic in nature
COR: RRR (+)S1/S2 no m/r/g but heart sounds are distant
ABD: Soft, non-tender, non-distended 
EXTREM: Warm, well-perfused, no edema
NEURO: CN II-XII grossly intact, motor function grossly normal, 
AAOx3
GYN: Erythematous labia majora and minora with white discharge 

DISCHARGE PHYSICAL EXAM:
========================
Vitals: 99.9 98.0 116-157/50-64 ___ 99% RA
GEN: Awake sitting up in bed, no acute distress, on RA
HEENT: MMM, anicteric sclerae, no conjunctival pallor 
PULM: B/l crackles diffusely. Stable from yesterday.
COR: RRR (+)S1/S2 no m/r/g
ABD: Soft, non-tender, non-distended, +BS 
EXTREM: Warm, well-perfused. Erythema, swelling and tender (less 
so today) area on the L radial aspect of wrist. 
NEURO: Alert and interactive. Grossly intact.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:46PM BLOOD WBC-8.3 RBC-4.77 Hgb-14.9 Hct-45.1 MCV-94 
MCH-31.2 MCHC-33.0 RDW-13.9 Plt ___
___ 09:46PM BLOOD Neuts-77* Bands-5 Lymphs-8* Monos-9 Eos-0 
Baso-0 ___ Metas-1* Myelos-0
___ 09:46PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 09:46PM BLOOD ___ PTT-26.1 ___
___ 09:46PM BLOOD Plt Smr-NORMAL Plt ___
___ 02:34PM BLOOD Glucose-433* UreaN-33* Creat-1.4* Na-132* 
K-4.1 Cl-93* HCO3-22 AnGap-21*
___ 02:34PM BLOOD ALT-23 AST-46* LD(LDH)-456* AlkPhos-84 
TotBili-0.3
___ 02:34PM BLOOD Albumin-4.0
___ 09:46PM BLOOD Calcium-8.9 Phos-3.5 Mg-1.2*
___ 02:41PM BLOOD Lactate-1.4
___ 05:33PM URINE Color-Yellow Appear-Hazy Sp ___
___ 05:33PM URINE Blood-SM  Nitrite-NEG Protein-300 
Glucose-1000 Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 05:33PM URINE RBC->182* WBC->182* Bacteri-FEW 
Yeast-MANY Epi-0

PERTINENT LABS:
===============
___ 06:45AM BLOOD ALT-19 AST-29 LD(___)-288* AlkPhos-66 
Amylase-65 TotBili-0.2
___ 06:45AM BLOOD proBNP-1003*
___ 10:44AM BLOOD Type-ART Temp-36.7 pO2-64* pCO2-33* 
pH-7.46* calTCO2-24 Base XS-0
___ 03:20PM BLOOD HIV Ab-NEGATIVE

DISCHARGE LABS:
===============
___ 07:10AM BLOOD WBC-11.6*# RBC-3.88* Hgb-12.2 Hct-36.9 
MCV-95 MCH-31.5 MCHC-33.1 RDW-13.1 Plt ___
___ 07:10AM BLOOD Neuts-73.4* Lymphs-17.8* Monos-8.2 
Eos-0.4 Baso-0.3
___ 07:10AM BLOOD Plt ___
___ 07:10AM BLOOD Glucose-152* UreaN-12 Creat-1.2* Na-136 
K-4.4 Cl-98 HCO3-26 AnGap-16
___ 07:10AM BLOOD Calcium-8.9 Phos-3.4 Mg-1.6

MICROBIOLOGY:
=============
___ BLOOD CULTURE 
   Blood Culture, Routine (Final ___:    NO GROWTH.

___ BLOOD CULTURE
   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 9:04 pm STOOL     
    C. difficile DNA amplification assay (Final ___:  
         Positive for toxigenic C. difficile by the Illumigene 
DNA
         amplification.            (Reference Range-Negative). 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

___ URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 

___ RML BRONCHIAL LAVAGE. 
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 
CFU/ml. 

   FUNGAL CULTURE (Preliminary): 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

___ RUL BRONCHIAL LAVAGE. 

   Respiratory Viral Antigen Screen (Final ___: 
      COMBINED WITH SPECIMEN #___ ___. 
      Positive for Respiratory viral antigens. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence.  

   Respiratory Virus Identification (Final ___: 
      Reported to and read back by ___. ___ 15:43 
___. 
      POSITIVE FOR INFLUENZA A VIRAL ANTIGEN. 
         Viral antigen identified by immunofluorescence. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 
CFU/ml. 

   FUNGAL CULTURE (Preliminary): 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

IMAGING:
========
CXR (___): No acute cardiopulmonary abnormality. 

CXR (___): Cardiomediastinal silhouette is normal. There are 
no signs for focal consolidation or overt pulmonary edema. There 
are no pleural effusions or pneumothoraces. 

CXR (___): No relevant change.  No pneumonia.  No pulmonary 
edema. Normal size of the cardiac silhouette.  No pleural 
effusions.  The lateral radiograph reveals a status post 
vertebroplasty. 

ECHO (___): The left atrium is normal in size. The estimated 
right atrial pressure is ___ mmHg. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets are mildly thickened (?#). 
There is no aortic valve stenosis. Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Trivial mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. There is an anterior space which most 
likely represents a prominent fat pad. 

IMPRESSION: Normal global and regional biventricular systolic 
function. Mild aortic regurgitation. Normal estimated RV/LV 
filling pressures.

CT CHEST W/O CONTRAST (___): Combination of ground-glass 
opacities, solid nodules and solid/ground-glass nodules within 
hello might be consistent with diffuse infectious process. 
Alternatively atypical mycobacterial infection, hypersensitivity 
reaction, aspiration or vasculitis would be a possibility. 
Neoplasm is substantially 
less likely. Cryptogenic organizing pneumonia is another less 
likely 
possibility.  
Diffuse bronchial wall thickening and endobronchial secretions 
might reflect part of the in infection/inflammatory process. 
Irregularity of the upper trachea with be beneficial to proceed 
with direct evaluation. 

PROCEDURES:
===========
BRONCHOSCOPY ___: The bronchoscope was passed through the 
mouth and the into the oropharynx where the cords were 
visualized and appeared normal. The cords were anesthatized with 
topical lidocaine. The bronchoscope was then passed through the 
cords and into the trachea. Thick, yellow, adherent mucous was 
noted on the posterior segment of the trachea. This did not 
clear with suctioning or with instilled saline. The bronchoscope 
was then passed into the right mainstem and into the RUL where 
lavage was performed in the anterior segment of the RUL. The 
bronchoscope was then withdrawn and passed into the BI and into 
the RML where another lavage was performed. The remained of the 
bilateral bronchi were inspected and patent. A cytorush was used 
to brush the upper airway adherent mucous. The airways appeared 
edemetous and hyperemic throughout. 
 
Impression: Diffuse parenchymal lung disease 

Recommendations: ___ microbiology, cytology and pathology
Followup cytology 
 
Brief Hospital Course:
___ F PMhx HTN, DMII on insulin, recent UTI status post ___ of 
nitrofurantoin, admitted ___ w hypoxiam, cough and 
diarrhea, found to have Cdiff colitis, initially flu negative on 
admission, subsequently undergoing CT chest with concerning 
features and bronchoscopy with a viral culture demonstrating 
influenza A as well as evidence of pneumonia, started on 
antibiotics, discharged home 

#) Hypoxic Respiratory Failure / Acute Influenza A Infection / 
Community Acquired Pneumonia - Patient admitted with hypoxia and 
cough, initially presumed PNA and placed on 
azithromycin/ceftriaxone, which was subsequently discontinued 
when no infiltrates were seen on CXR.  Given persistant systems, 
CT chest was obtained and showed "combination of ground-glass 
opacities, solid nodules and solid/ground-glass 
nodules".  Pulmonary consult recommended Bronchoscopy, which 
showed "diffuse parenchymal lung disease", and possible concern 
for residual PNA. She was started on levofloxacin (7-day course, 
day 1 = ___ for CAP. In addition, viral studies sent from 
bronchoscopy returned positive for influenza A prompting 
initiation of oseltamivir (5-day course, day 1 = ___. Her 
saturation normalized and she was discharged home with PCP and 
___.

#) C. DIFF INFECTION/DIARRHEA: Stool positive for C. diff.  
Thought to be secondary to recent outpatient course of 
nitrofurantoin.  Patient treated with PO vancomycin. She was 
having 10 BMs/day on admission, and by the day of discharge 
these had reduced to 3 loose stools/day. This should be 
continued for 14 days after completion of Levofloxacin course as 
above.

#) CELLULITIS: Pt developed L hand cellulitis at site of prior 
phlebotomy.  This was clinically improving on the day of 
discharge, on levofloxacin for her pneumonia would also cover 
cellulitis. PCP should ___ for improvement.

#) DM TYPE II: Uncontrolled with renal complications 
(Proteinuria), last A1C 11.6. Levemir was uptitrated to 31units 
from 25units

#) YEAST INFECTION: On presentation, patient found to have yeast 
infection, thought to be secondary to recent antibiotics. 
Resolved with fluconazole q72hr. Nystatin cream was also used to 
groin area.

#) HYPERTENSION: Continued home amlodipine, held Losartan-HCTZ 
given mild ___ and infections. This should be restarted per PCP.

#) HLD: Continued home atorvastatin. 
#) ANXIETY: Continued home Buspar, paroxetine.
#) GERD: Continued PPI, held H2 blocker.

TRANSITIONAL ISSUES:
[] Will need to follow up with Pulmonology and obtain PFTs as an 
outpatient (scheduled)
[] F/u resolution of yeast infection
[] Levofloxacin course for 8 days (d1 = ___
[] Tamiflu course for 5 days (d1 = ___
[] Vancomycin course to end on ___ (2 weeks after 
Levofloxacin ends)
[] We have held her ___ and ___ HCTZ. Please resume at PCP's 
discretion.
[] Patient has uncontrolled diabetes. Please evaluate home 
medication regimen and patient compliance. Uptitrated insulin.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. BusPIRone 10 mg PO TID 
4. Levemir 25 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
5. losartan-hydrochlorothiazide 100-25 mg oral daily 
6. Omeprazole 40 mg PO DAILY 
7. Paroxetine 40 mg PO DAILY 
8. Propranolol 20 mg PO BID 
9. Ranitidine 150 mg PO DAILY 
10. Cyanocobalamin 1000 mcg PO DAILY 
11. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral BID 
12. Ferrous Sulfate 325 mg PO DAILY 
13. Docusate Sodium 100 mg PO BID:PRN constipation 
14. Estrogens Conjugated 1 gm VG WEEKLY 
15. Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1. Vancomycin Oral Liquid ___ mg PO Q6H Duration: 18 Days 
RX *vancomycin 125 mg 1 capsule(s) by mouth every 6 hours Disp 
#*72 Capsule Refills:*0
2. Amlodipine 10 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. BusPIRone 10 mg PO TID 
5. Levemir 31 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
6. Omeprazole 40 mg PO DAILY 
7. Paroxetine 40 mg PO DAILY 
8. Propranolol 20 mg PO BID 
9. Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0
10. Levofloxacin 500 mg PO Q48H Duration: 2 Doses 
RX *levofloxacin 500 mg 1 tablet(s) by mouth every 48 hours Disp 
#*3 Tablet Refills:*0
11. Nystatin Cream 1 Appl TP BID 
RX *nystatin 100,000 unit/gram apply to groin rash twice a day 
Refills:*0
12. OSELTAMivir 75 mg PO Q24H 
RX *oseltamivir [Tamiflu] 75 mg 1 capsule(s) by mouth daily Disp 
#*3 Capsule Refills:*0
13. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral BID 
14. Cyanocobalamin 1000 mcg PO DAILY 
15. Docusate Sodium 100 mg PO BID:PRN constipation 
16. Estrogens Conjugated 1 gm VG WEEKLY 
17. Ferrous Sulfate 325 mg PO DAILY 
18. Multivitamins W/minerals 1 TAB PO DAILY 
19. Ranitidine 150 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Influenza A
Community-acquired pneumonia
Clostridium difficile infection
Yeast infection

Secondary diagnoses: Type II diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ on ___ for a cough, weakness, and 
diarrhea. You tested negative for influenza in the emergency 
department. We initially treated you for pneumonia, but because 
you also had a concurrent Clostridium difficile (C. diff) 
infection causing your diarrhea, when it was clear on imaging 
and in your bloodwork that you did not have a pneumonia, we 
stopped the antibiotics, treating only your C. diff infection 
with an antibiotic. It was also thought that you had a urinary 
tract infection, given your report of discomfort with urination, 
but with your concurrent yeast infection, it was decided to 
treat that, and your symptoms improved. 

Your diarrhea was still occurring on the day of discharge, but 
it was significantly improved from your arrival.

Unfortunately, your oxygen levels remained low despite our 
initial treatment. A picture of your heart was normal. We 
obtained a CT scan of your lungs, which was concerning was for a 
widespread lung infection or a medication-related insult to your 
lungs, possibly related to the treatment of your previous 
urinary tract infection. You were seen by our Pulmonology 
Fellow, who recommended that we use a scope to look inside your 
lungs and obtain fluid for analysis (bronchoscopy). While many 
of the results of this study have not yet returned, it was 
determined that you were positive for influenza and you were 
started on an antiviral medication called oseltamivir. 
Additionally, we decided to treat you with a full course of 
antibiotics in case you had a pneumonia that had only partially 
resolved. Throughout this time, your breathing was slowly 
improving, and you did not require extra oxygen for the last few 
days of your admission. 

You will follow up with Pulmonology as an outpatient. Thank you 
for allowing us to take part in your care.

___ MDs
 
Followup Instructions:
___